US04209613
0.56 g. (5 mmol) of uracil was agitated in 70 ml. of absolute acetonitrile with 1.86 g. (3.5 mmol) of HMDS and 2.55 g. (15.5 mmol) of TCS, as well as 1.69 g. (12 mmol) of NaClO4.H2O for 30 minutes at 24° C. The reaction mixture was then combined with 2.52 g. (5 mmol) of 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribofuranose and refluxed for 20 hours. The mixture was worked up as described in Example 1, yielding 58% of crystalline uridine tribenzoate.

reactant | uracil | 5 mmol | N1C(=O)NC(=O)C=C1 | C4H4N2O2
reactant | HMDS | 3.5 mmol | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | 1-O-acetyl-2,3,5-tri-O-benzoyl-β-D-ribofuranose | 5 mmol | C(C)(=O)O[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C28H24O9
solvent | acetonitrile | C(C)#N | C2H3N
product | uridine tribenzoate | 58% | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C(=O)NC(=O)C=C1 | C30H24N2O9
